### PR TITLE
feat(Data/ZMod/Defs): Topological structure on `ZMod`

### PR DESCRIPTION
**Pull request by laughinggas**
Added a discrete topology structure to `ZMod n` for all `n`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by mo271 — APPROVED** [review]

File: Mathlib/Data/ZMod/Defs.lean [hunk 1]
```diff
@@ -195,4 +196,10 @@ instance inhabited (n : ℕ) : Inhabited (ZMod n) :=
   ⟨0⟩
 #align zmod.inhabited ZMod.inhabited
 
+/-- Making `ZMod` a discrete topological space. -/
+instance {d : ℕ} : TopologicalSpace (ZMod d) := ⊥
```
Comment (YaelDillies) [inline Mathlib/Data/ZMod/Defs.lean:200]:
```suggestion
instance {d : ℕ} instTopologicalSpace : TopologicalSpace (ZMod d) := ⊥
```

File: Mathlib/Data/ZMod/Defs.lean [hunk 2]
```diff
@@ -195,4 +196,10 @@ instance inhabited (n : ℕ) : Inhabited (ZMod n) :=
...
+attribute [local instance] ZMod.instTopologicalSpaceZMod
+
+instance {d : ℕ} : DiscreteTopology (ZMod d) := { eq_bot := rfl }
```
Comment (YaelDillies) [inline Mathlib/Data/ZMod/Defs.lean:203]:
```suggestion
instance {d : ℕ} instDiscreteTopology : DiscreteTopology (ZMod d) := ⟨rfl⟩
```

File: Mathlib/Data/ZMod/Defs.lean [hunk 3]
```diff
@@ -195,4 +196,10 @@ instance inhabited (n : ℕ) : Inhabited (ZMod n) :=
   ⟨0⟩
 #align zmod.inhabited ZMod.inhabited
 
+/-- Making `ZMod` a discrete topological space. -/
+instance {d : ℕ} : TopologicalSpace (ZMod d) := ⊥
+attribute [local instance] ZMod.instTopologicalSpaceZMod
```
Comment (YaelDillies) [inline Mathlib/Data/ZMod/Defs.lean:201]: What are those attribute declarations even doing?

File: Mathlib/Data/ZMod/Defs.lean [hunk 4]
```diff
@@ -6,6 +6,7 @@ Authors: Eric Rodriguez
 import Mathlib.Algebra.NeZero
 import Mathlib.Data.Nat.ModEq
 import Mathlib.Data.Fintype.Lattice
+import Mathlib.Topology.Order
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Defs.lean:9]: I don't think it is reasonable to import topology this early in the import hierarchy; can you put these results near wherever the discrete topology on `Nat` is established?

File: Mathlib/Data/ZMod/Defs.lean (hunk 3 above)
Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean:201]: I am not really sure, in Lean 3, these were local instances which I could call when needed. I wanted to reproduce that.

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean:201]: I think these are probably fine as global instances?

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean:201]: Agreed. And also you're already declaring them to be global with the previous `instance` declarations. So I think your `attribute [local instance]` are ineffective.

File: Mathlib/Data/ZMod/Defs.lean (hunk 4 above)
Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean:9]: Is it alright if I create a new file? More lemmas will be coming in shortly, regarding the equivalence of the induced and `embedProduct` topologies on `Units (ZMod n)`

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean:9]: New file is fine!

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean:9]: Don't forget to delete this import

Comment (mo271) [inline Mathlib/Data/ZMod/Defs.lean:9]:
```suggestion
```

File: Mathlib/Data/ZMod/Defs.lean [hunk 5]
```diff
@@ -194,5 +195,4 @@ instance commRing (n : ℕ) : CommRing (ZMod n) where
 instance inhabited (n : ℕ) : Inhabited (ZMod n) :=
   ⟨0⟩
 #align zmod.inhabited ZMod.inhabited
```
Comment (mo271) [inline Mathlib/Data/ZMod/Defs.lean:197]:
```suggestion
#align zmod.inhabited ZMod.inhabited

```

File: Mathlib/Data/ZMod/Defs.lean (hunk 4 above)
Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean]: Done, thanks!

Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean]: How can I remove the ` Check all files imported (push) ` error?

File: Mathlib/Data/ZMod/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean]: What other topology would you put? I would think discrete is the usual one.

File: Mathlib/Data/ZMod/Defs.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean]: You should read https://github.com/leanprover-community/mathlib4/actions/runs/7286447002/job/19855177515?pr=9146 and add the line it's telling you to add to `Mathlib.lean`

Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean]: Thanks, done!

File: Mathlib/Data/ZMod/Defs.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean]: It's worth checking that no non-defeq diamonds are created here; to ensure that, it might be necessary to define the topology via a case split

Comment (laughinggas) [reply Mathlib/Data/ZMod/Defs.lean]: Why not make it a local instance instead?

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean]: > because we are then putting an instance of a discrete topology structure on the integers..

I think the integers already have this topology anyway?

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean]: Indeed, see `instTopologicalSpaceInt`

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean]: In fact, `Fin n` already has the topology too:

https://github.com/leanprover-community/mathlib4/blob/341dab4127bc6f4797c5905708551a23c0f82d01/Mathlib/Topology/Order.lean#L574-L578

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Defs.lean]: So given that `ZMod` is always one of these two types, and both have this topology as a global instance, it's pretty clear that ZMod should also have these instances (but defined to have the right defeq)

File: Mathlib/Topology/Order.lean [hunk 6]
```diff
@@ -866,6 +866,26 @@ theorem nhds_induced [T : TopologicalSpace α] (f : β → α) (a : β) :
...
+eq_of_nhds_eq_nhds ( λ x => by
+  set hY : TopologicalSpace Y := ⊥
+  haveI : DiscreteTopology Y := ⟨rfl⟩
+  set hX : TopologicalSpace X := ⊥
+  haveI : DiscreteTopology X := ⟨rfl⟩
+  rw [@nhds_induced _ _ ⊥ f _, nhds_discrete, Filter.comap_pure, ← Set.image_singleton,
+    hf.preimage_image, nhds_discrete X]
+  simp)
+
+lemma DiscreteTopology_induced {X Y : Type*} [tY : TopologicalSpace Y] [DiscreteTopology Y] {f :
```
Comment (urkud) [inline Mathlib/Topology/Order.lean:884]: IMHO, we should use the existing `Embedding.discreteTopology` instead of these two lemmas.

File: Mathlib/Data/ZMod/Topology.lean [hunk 7]
```diff
@@ -0,0 +1,24 @@
...
+namespace ZMod
+/-- Making `ZMod` a discrete topological space. -/
+instance {d : ℕ} : TopologicalSpace (ZMod d) := ⊥
+
+instance {d : ℕ} : DiscreteTopology (ZMod d) := { eq_bot := rfl }
+end ZMod
+
+@[continuity]
+lemma induced_top_cont_inv {n : ℕ} : @Continuous _ _ (TopologicalSpace.induced
+    (Units.coeHom (ZMod n)) inferInstance) _ (Units.inv : (ZMod n)ˣ → ZMod n) := by
```
Comment (urkud) [inline Mathlib/Data/ZMod/Topology.lean:22]: We have a canonical topology on the units. Why not use it?

File: Mathlib/Data/ZMod/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/ZMod/Defs.lean]: Does the current definition not have the right defeq?

File: Mathlib/Data/ZMod/Topology.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Data/ZMod/Topology.lean:22]: Can you not use the universal property of the induced topology to state that `embedProduct` is the induced topology without actually fiddling with several topologies on the same type?

Comment (urkud) [reply Mathlib/Data/ZMod/Topology.lean:22]: You should add this instance (if we don't have it yet):
```
@[to_additive]
instance {M : Type*} [Monoid M] [TopologicalSpace M] [DiscreteTopology M] :
    DiscreteTopology Mˣ :=
  .of_continuous_injective Units.continuous_val Units.ext
```

Comment (urkud) [reply Mathlib/Data/ZMod/Topology.lean:22]: BTW, you can also have `Embedding Units.val` from `Units.embedding_val_mk`.

Comment (laughinggas) [reply Mathlib/Data/ZMod/Topology.lean:22]: > Can you not use the universal property of the induced topology to state that `embedProduct` is the induced topology without actually fiddling with several topologies on the same type?

These are equivalent conditions, as shown in the lemma `top_eq_iff_cont_inv`

File: Mathlib/Topology/Algebra/Constructions.lean [hunk 8]
```diff
@@ -180,4 +180,32 @@ theorem continuous_coe_inv : Continuous (fun u => ↑u⁻¹ : Mˣ → M) :=
 #align units.continuous_coe_inv Units.continuous_coe_inv
 #align add_units.continuous_coe_neg AddUnits.continuous_coe_neg
 
+lemma top_eq_if_cont_inv' {α : Type*} [TopologicalSpace α] [Monoid α]
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Constructions.lean:183]: I think we should try to avoid working with different topologies on a single space. Would the following lemmas cover your use case?
```lean
@[to_additive]
protected lemma continuous_inv : Continuous (fun u ↦ u⁻¹ : Mˣ → Mˣ) := by
  rw [Units.continuous_iff]
  exact ⟨continuous_coe_inv, continuous_val⟩

@[to_additive (attr := simps!)]
protected def homeomorph_inv : Mˣ ≃ₜ Mˣ :=
  { left_inv := fun _ ↦ rfl,
    right_inv := fun _ ↦ rfl,
    continuous_toFun := Units.continuous_inv,
    continuous_invFun := Units.continuous_inv }

lemma inducing_coe_iff : Inducing (coeHom M) ↔ Inducing (fun u ↦ ↑u⁻¹ : Mˣ → M) :=
  ⟨fun h ↦ h.comp (Units.homeomorph_inv.inducing),
   fun h ↦ h.comp (Units.homeomorph_inv.inducing)⟩

lemma embedding_coe_iff : Embedding (coeHom M) ↔ Embedding (fun u ↦ ↑u⁻¹ : Mˣ → M) :=
  ⟨fun h ↦ h.comp (Units.homeomorph_inv.embedding),
   fun h ↦ h.comp (Units.homeomorph_inv.embedding)⟩
```

File: Mathlib/Data/ZMod/Topology.lean [hunk 9]
```diff
@@ -0,0 +1,30 @@
...
+This file adds a discrete topological structure to `ZMod n` for all `n`.
+-/
+
+namespace ZMod
+/-- Making `ZMod` a discrete topological space. -/
+instance {d : ℕ} : TopologicalSpace (ZMod d) := ⊥
+
+instance {d : ℕ} : DiscreteTopology (ZMod d) := { eq_bot := rfl }
+end ZMod
+
```
Comment (jcommelin) [inline Mathlib/Data/ZMod/Topology.lean:19]: Would the following lemmas cover your use case?
```lean
-- move this close to `continuous_of_discreteTopology`?
lemma embedding_of_discreteTopology {α β : Type _} [TopologicalSpace α] [TopologicalSpace β]
    [DiscreteTopology α] [DiscreteTopology β] (f : α → β) (hf : f.Injective) : Embedding f := by
  refine ⟨⟨?_⟩, hf⟩
  ext s
  constructor <;> intro
  · rw [isOpen_induced_iff]
    use f '' s
    simp only [isOpen_discrete, hf, Set.preimage_image_eq, and_self]
  · apply isOpen_discrete

lemma embedding_coeHom (d : ℕ) : Embedding (Units.coeHom (ZMod d)) :=
  embedding_of_discreteTopology _ Units.ext

lemma embedding_coe_inv (d : ℕ) : Embedding (fun u ↦ ↑u⁻¹ : (ZMod d)ˣ → (ZMod d)) :=
  Units.embedding_coe_iff.mp (embedding_coeHom d)
```

**Comment by laughinggas** [comment]
Thanks @jcommelin ! I have added both changes to the code. I am happy to delete this controversial lemma with two topologies on it as of now, and come back to it when needed. For now, having the topology on `ZMod` is crucial to my project.

**Comment by jcommelin** [comment]
@laughinggas can you please add docstrings for the two new defs, and move the lemma about embeddings between discrete spaces to a lower level file?

File: Mathlib/Topology/Algebra/Constructions.lean [hunk 10]
```diff
@@ -180,4 +180,24 @@ theorem continuous_coe_inv : Continuous (fun u => ↑u⁻¹ : Mˣ → M) :=
...
+  rw [Units.continuous_iff]
+  exact ⟨continuous_coe_inv, continuous_val⟩
+
+/-- The inversion map on `Units` is a homeomorphism. -/
+@[to_additive (attr := simps!) "The negation map on `AddUnits` is a homeomorphism."]
+protected def homeomorph_inv : Mˣ ≃ₜ Mˣ :=
+  { left_inv := fun _ ↦ rfl,
+    right_inv := fun _ ↦ rfl,
+    continuous_toFun := Units.continuous_inv,
+    continuous_invFun := Units.continuous_inv }
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Constructions.lean:194]:
```suggestion
protected def homeomorph_inv : Mˣ ≃ₜ Mˣ where
  left_inv _ := rfl
  right_inv _ := rfl
  continuous_toFun := Units.continuous_inv
  continuous_invFun := Units.continuous_inv
```

File: Mathlib/Topology/Maps.lean [hunk 11]
```diff
@@ -264,9 +264,18 @@ theorem Embedding.discreteTopology {X Y : Type*} [TopologicalSpace X] [Topologic
...
 
+lemma embedding_of_discreteTopology {α β : Type*} [TopologicalSpace α] [TopologicalSpace β]
+    [DiscreteTopology α] [DiscreteTopology β] (f : α → β) (hf : f.Injective) : Embedding f := by
+  refine ⟨⟨?_⟩, hf⟩
+  ext s
+  constructor <;> intro
+  · rw [isOpen_induced_iff]
+    use f '' s
+    simp only [isOpen_discrete, hf, Set.preimage_image_eq, and_self]
+  · apply isOpen_discrete
```
Comment (YaelDillies) [inline Mathlib/Topology/Maps.lean:277]:
```suggestion
    [DiscreteTopology α] [DiscreteTopology β] (f : α → β) (hf : f.Injective) : Embedding f :=
    ⟨inducing_of_discreteTopology , hf⟩
```

File: Mathlib/Topology/Algebra/Constructions.lean [hunk 12]
```diff
@@ -180,4 +180,24 @@ theorem continuous_coe_inv : Continuous (fun u => ↑u⁻¹ : Mˣ → M) :=
 #align units.continuous_coe_inv Units.continuous_coe_inv
 #align add_units.continuous_coe_neg AddUnits.continuous_coe_neg
 
+@[to_additive]
+protected lemma continuous_inv : Continuous (fun u ↦ u⁻¹ : Mˣ → Mˣ) := by
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Constructions.lean:184]: We should have a `ContinuousInv` instance instead of a type-specific lemma. Then use [Homeomorph.inv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#Homeomorph.inv) instead of the next definition.

File: Mathlib/Topology/Algebra/Constructions.lean [hunk 13]
```diff
@@ -180,4 +180,24 @@ theorem continuous_coe_inv : Continuous (fun u => ↑u⁻¹ : Mˣ → M) :=
...
+
+/-- The inversion map on `Units` is a homeomorphism. -/
+@[to_additive (attr := simps!) "The negation map on `AddUnits` is a homeomorphism."]
+protected def homeomorph_inv : Mˣ ≃ₜ Mˣ :=
+  { left_inv := fun _ ↦ rfl,
+    right_inv := fun _ ↦ rfl,
+    continuous_toFun := Units.continuous_inv,
+    continuous_invFun := Units.continuous_inv }
+
+lemma inducing_coe_iff : Inducing (coeHom M) ↔ Inducing (fun u ↦ ↑u⁻¹ : Mˣ → M) :=
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Constructions.lean:196]: Why not use `Units.val` instead of `coeHom` in the LHS? Also, LHS is simpler than RHS. I suggest
```suggestion
lemma inducing_val_inv_iff : Inducing (fun u ↦ ↑u⁻¹ : Mˣ → M) ↔ Inducing ((↑) : Mˣ → M) :=
```

File: Mathlib/Topology/Maps.lean [hunk 14]
```diff
@@ -264,9 +264,18 @@ theorem Embedding.discreteTopology {X Y : Type*} [TopologicalSpace X] [Topologic
     [DiscreteTopology Y] {f : X → Y} (hf : Embedding f) : DiscreteTopology X :=
   .of_continuous_injective hf.continuous hf.inj
 #align embedding.discrete_topology Embedding.discreteTopology
-
 end Embedding
 
+lemma embedding_of_discreteTopology {α β : Type*} [TopologicalSpace α] [TopologicalSpace β]
```
Comment (urkud) [inline Mathlib/Topology/Maps.lean:269]:
```suggestion
lemma Embedding.of_discreteTopology {α β : Type*} [TopologicalSpace α] [TopologicalSpace β]
```

File: Mathlib/Data/ZMod/Topology.lean [hunk 15]
```diff
@@ -0,0 +1,24 @@
+/-
+Copyright (c) 2023 Ashvni Narayanan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ashvni Narayanan
+-/
+import Mathlib.Data.ZMod.Basic
+import Mathlib.Topology.Algebra.Constructions
```
Comment (urkud) [inline Mathlib/Data/ZMod/Topology.lean:7]: Please move this file to `Mathlib.Topology.Instances.ZMod`.

File: Mathlib/Topology/Algebra/Constructions.lean (hunk 13 above)
Comment (urkud) [reply Mathlib/Topology/Algebra/Constructions.lean:196]: In fact, I think that we should have `Homeomorph.inducing_comp_left_iff` and `Homeomorph.embedding_comp_left_iff`.

File: Mathlib/Data/ZMod/Topology.lean [hunk 16]
```diff
@@ -0,0 +1,24 @@
...
+-/
+
+namespace ZMod
+/-- Making `ZMod` a discrete topological space. -/
+instance {d : ℕ} : TopologicalSpace (ZMod d) := ⊥
+
+instance {d : ℕ} : DiscreteTopology (ZMod d) := { eq_bot := rfl }
+end ZMod
+
+lemma embedding_coeHom (d : ℕ) : Embedding (Units.coeHom (ZMod d)) :=
```
Comment (urkud) [inline Mathlib/Data/ZMod/Topology.lean:20]: `Units.val` is the `simp`-normal form. Please use it here.
```suggestion
lemma embedding_coe (d : ℕ) : Embedding ((↑) : (ZMod d)ˣ → ZMod d) :=
```

File: Mathlib/Data/ZMod/Topology.lean [hunk 17]
```diff
@@ -0,0 +1,24 @@
...
+  embedding_of_discreteTopology _ Units.ext
+
+lemma embedding_coe_inv (d : ℕ) : Embedding (fun u ↦ ↑u⁻¹ : (ZMod d)ˣ → (ZMod d)) :=
+  Units.embedding_coe_iff.mp (embedding_coeHom d)
```
Comment (urkud) [inline Mathlib/Data/ZMod/Topology.lean:24]: This lemma should be moved and/or generalized. To avoid extra dependencies, you may either use the `of_discreteTopology` constructor again.

File: Mathlib/Topology/Algebra/Constructions.lean (hunk 10 above)
Comment (urkud) [reply Mathlib/Topology/Algebra/Constructions.lean:194]: Please use generic `Homeomorph.inv` instead.

File: Mathlib/Topology/Algebra/Constructions.lean (hunk 12 above)
Comment (laughinggas) [reply Mathlib/Topology/Algebra/Constructions.lean]: Done!

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 18]
```diff
@@ -1953,11 +1953,32 @@ namespace Units
...
 variable [Monoid α] [TopologicalSpace α] [Monoid β] [TopologicalSpace β]
-
 @[to_additive]
-instance [ContinuousMul α] : TopologicalGroup αˣ where
+instance : ContinuousInv αˣ where
   continuous_inv := Units.continuous_iff.2 <| ⟨continuous_coe_inv, continuous_val⟩
 
+/-- The inversion map on `Units` is a homeomorphism. -/
+@[to_additive (attr := simps!) "The negation map on `AddUnits` is a homeomorphism."]
+protected def homeomorph_inv : αˣ ≃ₜ αˣ where
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1962]: As I said before, we already have [Homeomorph.inv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#Homeomorph.inv) that works for any type with involutive continuous `Inv.inv`, no need to define a new copy of it.

**Comment by YaelDillies** [comment]
[`ZMod.instTopologicalSpace`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/ZMod.html#ZMod.instTopologicalSpace) now exists. Do you want to salvage the rest of the PR?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
